US06297239B1
Step A: Preparation of 2-(2-Oxo-2H-pyridin-1-yl)-anisole
2-Iodoanisole (1.30 mL, 0.01 mol), 2-hydroxypyridine (0.95 g, 0.01 mol), anhydrous K2CO3 (2.76 g, 0.02 mol) and copper powder (0.0636 g, 0.001 mol) were combined and heated at 200° C. for 2 hr. The reaction mixture was cooled, EtOAc added, and filtered. The filtrate was washed with H2O, aqueous saturated NaHCO3 solution, brine, and dried (Na2SO4). Filtration and concentration gave the title compound after chromatography (silica gel, 2% CH3OH, CH2Cl2).

reactant | 2-Iodoanisole | 0.01 mol, 1.30 mL | IC1=C(C=CC=C1)OC | C7H7IO
reactant | 2-hydroxypyridine | 0.01 mol, 0.95 g | OC1=NC=CC=C1 | C5H5NO
reactant | K2CO3 | 0.02 mol, 2.76 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | copper | 0.001 mol, 0.0636 g | [Cu] | Cu
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(2-Oxo-2H-pyridin-1-yl)-anisole | O=C1N(C=CC=C1)C1=C(C=CC=C1)OC | C12H11NO2
